US09085555B2
C. (2S,4S)-4-aminomethyl-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4R)-4-azidomethyl-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester (380 mg, 0.884 mmol) in THF (25 mL) under N2 atmosphere at RT was added 1M PMe3 in THF (1.06 mL, 1.06 mmol). The reaction mixture was stirred for 16 h then quenched with water and extracted twice with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (CH2Cl2/MeOH 8:2) to give the desired material. MS (LC/MS): 404/406 [M+H]+, 402 [M−H]−; tR (HPLC conditions f): 1.57 min, 19F NMR (100 MHz, DMSO-d6) δ (ppm): −120, −154.

reactant | (2S,4R)-4-azidomethyl-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.884 mmol, 380 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)CN=[N+]=[N-])C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H22ClF2N5O3
reactant | PMe3 | 1M | P(C)(C)C | C3H9P
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 1.06 mmol, 1.06 mL | C1CCOC1 | C4H8O
product | (2S,4S)-4-aminomethyl-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)CN)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H24ClF2N3O3
